* extracted by klt extract --deck sg13cmos5l
* parasitic model (--parasitics):
* - capacitance: net-to-ground for every net's own (non-coupled) area/perimeter, plus net-to-net for the vertical-overlap coupling `coupling` describes below -- a coupled net pair gets a direct capacitor between their two hub nodes, not just capacitors to the deck's ground/substrate net
* - coupling: vertical overlap (crossover) unconditionally -- where one net's conductor on an adjacent metal level sits directly over another *distinct* net's conductor, that overlap area is charged between the two nets instead of to ground (issue #760) -- plus lateral (same-layer, sidewall) coupling, but only for a net pair naming one of the caller's declared `--critical-net` nets (issue #976): facing-edge length within that layer's own minimum-spacing lookback is charged between the two nets, *additively* (not deducted from either net's substrate fringe term, unlike the vertical case -- a known simplification). Any same-layer pair with neither side named `--critical-net`, and fringe shielding in general, are still not modelled
* - resistance: single lumped series resistance per net, distributed as a star across that net's device terminals (issue #592) -- not a per-segment, distributed RC ladder, *unless* `--distributed-rc` names this net via `--critical-net` (issue #977, Epic #709 Phase 2b): then the net's terminals are ordered along their approximate physical spread and its total R/C is broken into a chain of per-segment resistors (segment length proportional to inter-terminal distance) with a ground capacitor at each terminal node (proportional to its adjacent segment length/2), instead of one star hub -- still an approximation (terminal position is a device-placement proxy, not true per-segment routing geometry), but a strictly finer-grained one than the single-hub star
* - frequency: quasi-static -- one frequency-independent R and C per net; no skin effect, no distributed transmission-line behavior
.GLOBAL vsubs

* cell pll_loop_filter
* pin NZ
* pin VCTRL
* pin VSS
* pin vsubs
.SUBCKT pll_loop_filter NZ VCTRL VSS vsubs
* device instance $1 r0 *1 817,0 cap_cmomi
XD_$1 NZ__t0 VSS__t0 cap_cmomi PARAMS: W=40 L=40
* device instance $2 r0 *1 863,0 cap_cmomi
XD_$2 VCTRL__t0 VSS__t1 cap_cmomi PARAMS: W=10 L=10
* device instance $3 r0 *1 405.5,0.5 rppd
R$3 VCTRL__t1 NZ__t1 vsubs 351000 rppd L=810U W=0.6U
* device instance NZ_t0 r0 *1 0,0 
RNZ_t0 NZ__t0 NZ 1593.8063
* device instance NZ_t1 r0 *1 0,0 
RNZ_t1 NZ__t1 NZ 1593.8063
* device instance NZ r0 *1 0,0 
CNZ NZ vsubs 5.33897846e-13
* device instance VCTRL_t0 r0 *1 0,0 
RVCTRL_t0 VCTRL__t0 VCTRL 214.48915
* device instance VCTRL_t1 r0 *1 0,0 
RVCTRL_t1 VCTRL__t1 VCTRL 214.48915
* device instance VCTRL r0 *1 0,0 
CVCTRL VCTRL vsubs 9.1288117e-14
* device instance VSS_t0 r0 *1 0,0 
RVSS_t0 VSS__t0 VSS 1628.9568
* device instance VSS_t1 r0 *1 0,0 
RVSS_t1 VSS__t1 VSS 1628.9568
* device instance VSS r0 *1 0,0 
CVSS VSS vsubs 5.49864074e-13
* device instance cc_VCTRL_VSS r0 *1 0,0 
Ccc_VCTRL_VSS VCTRL VSS 6.05e-18
* device instance vsubs_dctie r0 *1 0,0 
Rvsubs_dctie vsubs 0 1e+12
.ENDS pll_loop_filter
